US07326791B2
(e) rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-ethynyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-ethynyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and rac.-1-(5-chlorobenzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 46%; Rf value: 0.48 (silica gel; dichloromethane/ethanol=9:1); C23H21ClN4O2 (420.90); mass spectrum: (M+H)+=421/423 (chlorine isotope).

reactant | 3-ethynyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | C(#C)C=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C14H13NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac.-1-(5-chlorobenzimidazol-2-yl)ethylamine | ClC1=CC2=C(N=C(N2)C(C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-ethynyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 46% | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C#C)=O)C=C1 | C23H21ClN4O2
